US04748272
Ethyl 2(4-methoxyphenyl)-2[3-(α-hydroxyhexy)phenoxy)acetate
To a stirred mixture of 10 g of 3-(α-hydroxyhexyl)phenol, 7.8 g of potassium carbonate, and 4 g of potassium iodide in 400 ml of DMF was added 13.2 g of Ethyl 2-bromo-2(4-methoxyphenyl)acetate and stirring was continuted at room temperature for 40 hours. The reaction mixture was then diluted with water, extracted with ethyl acetate, dried over magnesium sulfate and evaporated to dryness. The oily residue (8 g) was chromatographed by HPLC using EtOAc-hexane (1:4) as eluent to give pure product.

reactant | 3-(α-hydroxyhexyl)phenol | 10 g | OC(CCCCC)C=1C=C(C=CC1)O | C12H18O2
reactant | potassium carbonate | 7.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 4 g | [I-].[K+]
reactant | Ethyl 2-bromo-2(4-methoxyphenyl)acetate | 13.2 g | BrC(C(=O)OCC)C1=CC=C(C=C1)OC | C11H13BrO3
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Ethyl 2(4-methoxyphenyl)-2[3-(α-hydroxyhexy)phenoxy)acetate | COC1=CC=C(C=C1)C(C(=O)OCC)OC1=CC(=CC=C1)C(CCCCC)O | C23H30O5
